US08669271B2
4-(5-Bromo-2,3-dihydro-benzofuran-2-yl)-piperidine
Potassium carbonate (10.17 g) is added to an ice-cooled mixture of 1-[4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidin-1-yl]-2,2,2-trifluoro-ethanone (4.64 g), methanol (120 mL), and water (30 mL). The reaction mixture is stirred over night at room temperature. Brine (150 mL) is added and the mixture is extracted with dichloromethane. The combined organic phases are dried over MgSO4 and concentrated in vacuo. The crude product is used for the next step without further purification. LC (method 2): tR=1.05 min; Mass spectrum (ESI+): m/z=282, 284 [M+H]+.

reactant | Potassium carbonate | 10.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[4-(5-bromo-2,3-dihydro-benzofuran-2-yl)-piperidin-1-yl]-2,2,2-trifluoro-ethanone | 4.64 g | BrC=1C=CC2=C(CC(O2)C2CCN(CC2)C(C(F)(F)F)=O)C1 | C15H15BrF3NO2
reactant | methanol | 120 mL | CO | CH4O
reactant | water | 30 mL | O | H2O
solvent | Brine | 150 mL | [Cl-].[Na+].O
product | 4-(5-Bromo-2,3-dihydro-benzofuran-2-yl)-piperidine | BrC=1C=CC2=C(CC(O2)C2CCNCC2)C1 | C13H16BrNO
